US20010041799A1
To a solution of N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester trifluoroacetic acid salt (2.35 g, 4.93 mmol) in dioxane (25 mL) was added diisopropylethylamine (0.860 mL, 4.93 mmol) and di-tert-butyl dicarbonate (1.08 g, 4.93 mmol). The resultant mixture was stirred for 18 h. The reaction mixture was filtered through a sintered glass funnel and the filtrate was concentrated in vacuo. Purification of the residual material by silica gel flash column chromatography (hexane-ethyl acetate 3:1) afforded N-[[1-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethyl]cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester (2.20 g, 95%). HR MS: Obs. mass, 464.2397. Calcd. mass, 464.2397 (M+H).

reactant | N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester trifluoroacetic acid salt | 4.93 mmol, 2.35 g | FC(C(=O)O)(F)F.COC([C@@H](NC(=O)C1(CCCC1)CCN)CC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | diisopropylethylamine | 4.93 mmol, 0.860 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 4.93 mmol, 1.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | N-[[1-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethyl]cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester | 2.20 g, 95% | COC([C@@H](NC(=O)C1(CCCC1)CCNC(=O)OC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H33N3O7
